US05665754
To a solution of trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-methylcarbonyl-1-(phenylmethyl)pyrrolidine (703 mg, 1.78 mmol) in 3.5 mL of dichloroethane in a thick-walled glass sealable tube was added methyl chloroformate (336 mg, 3.56 mmol). The tube was sealed and the resulting solution was heated to 80° C. for 8 hr. After cooling to room temperature, the solution was concentrated. Silica gel chromatography of the residue (6:3:1, hexanes:ethyl acetate:CH2Cl2) provided trans-3-(3-cyclopentoxy-4-methoxyphenyl)-1-methoxycarbonyl-4-(methylcarbonyl)pyrrolidine as a viscous oil (350 mg, 54%). Anal. Calcd for C20H27NO5 : C, 66.46; H, 7.53; N, 3.88. Found: C, 66.24; H, 7.60; N, 3.79.

reactant | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-4-methylcarbonyl-1-(phenylmethyl)pyrrolidine | 1.78 mmol, 703 mg | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)C)CC1=CC=CC=C1 | C25H31NO3
reactant | methyl chloroformate | 3.56 mmol, 336 mg | ClC(=O)OC | C2H3ClO2
solvent | dichloroethane | 3.5 mL | ClC(C)Cl | C2H4Cl2
product | trans-3-(3-cyclopentoxy-4-methoxyphenyl)-1-methoxycarbonyl-4-(methylcarbonyl)pyrrolidine | 350 mg, 54% | C1(CCCC1)OC=1C=C(C=CC1OC)[C@@H]1CN(C[C@H]1C(=O)C)C(=O)OC | C20H27NO5
